US07399868B2
A mixture of 4-iodo-1-tritylimidazole (commercially available) (15.5 g, 35.4 mmol) in dichloromethane (80 mL) at 20° C. was treated with ethyl magnesium bromide (12.0 mL, 36 mmol, 3M in ether) and allowed to react for 1 h. A solution of 1-isoquinolin-1-yl-ethanone (Intermediate H2) (3.65 g, 21.3 mmol) in dichloromethane (20 mL) was added via addition funnel at 20° C. and stirred for 16 h. The mixture was quenched with sat. ammonium chloride (100 mL) and diluted with dichloromethane. The residue was isolated in an aqueous workup. The product was extracted with CH2Cl2 and purified by chromatography on silica gel with 5% NH3-MeOH: CH2Cl2 to give 1-isoquinolin-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol (Intermediate H3) as a solid.

reactant | 4-iodo-1-tritylimidazole | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethyl magnesium bromide | 36 mmol, 3M, 12.0 mL | C(C)[Mg]Br
reactant | 1-isoquinolin-1-yl-ethanone | 21.3 mmol, 3.65 g | C1(=NC=CC2=CC=CC=C12)C(C)=O | C11H9NO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-isoquinolin-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol | C1(=NC=CC2=CC=CC=C12)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27N3O
